US06010851
The phosphomonoesterase activity was measured under the following condition using 5'-inosinic acid as a substrate. The reaction was performed at 30° C. for 10 minutes in a reaction solution (1 ml) containing 10 μmol/ml of 5'-inosinic acid, 100 μmol/ml of MES/NaOH buffer (pH 6.0), and an enzyme. The reaction was stopped by adding 200 μl of 2 N hydrochloric acid. After that, precipitates were removed by centrifugation. Then, inosine produced by the hydrolytic reaction was quantitatively measured. An amount of enzyme to produce 1 μmol of inosine per 1 minute under this standard reaction condition was defined as 1 unit.

reactant | 5'-inosinic acid | [C@@H]1([C@H](O)[C@H](O)[C@@H](COP(=O)(O)O)O1)N1C=NC=2C(O)=NC=NC12 | C10H13N4O8P
reactant | 5'-inosinic acid | 10 μmol/ml | [C@@H]1([C@H](O)[C@H](O)[C@@H](COP(=O)(O)O)O1)N1C=NC=2C(O)=NC=NC12 | C10H13N4O8P
reactant | MES NaOH | 100 μmol/ml, pH 6.0 | C1COCCN1CCS(=O)(=O)O.[OH-].[Na+]
solvent | hydrochloric acid | 2 N, 200 μl | Cl | ClH
product | inosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O5
